US08071584B2
1-(1,1-Dimethylethyl) 7-ethyl 5-bromo-3-[2-(1-methylethyl)tetrahydro-2H-thiopyran-4-yl]-1H-indole-1,7-dicarboxylate
Ethyl 5-bromo-3-[2-(1-methylethyl)tetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxylate (2.5 g, 6.09 mmol) was dissolved in acetonitrile (20 mL). Di-tert-butyl dicarbonate (4.24 mL, 18.28 mmol) was added and the mixture stirred at 23° C. Dimethylamino pyridine (0.744 g, 6.09 mmol) was added in small portions over 2 h and the mixture was left stirring at 23° C. overnight. The reaction was diluted with saturated aqueous sodium bicarbonate (100 mL), the resulting mixture was concentrated in vacuo to remove most of the acetonitrile. The resulting aqueous mixture was extracted with ethyl acetate (75 mL). The organic layer was dried (MgSO4) and solvent was removed in vacuo to afford 2.6 g of the title compound as a gummy brown oil.

reactant | Ethyl 5-bromo-3-[2-(1-methylethyl)tetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxylate | 6.09 mmol, 2.5 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CC(SCC1)C(C)C | C19H24BrNO2S
reactant | Di-tert-butyl dicarbonate | 18.28 mmol, 4.24 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Dimethylamino pyridine | 6.09 mmol, 0.744 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
product | 1-(1,1-Dimethylethyl) 7-ethyl 5-bromo-3-[2-(1-methylethyl)tetrahydro-2H-thiopyran-4-yl]-1H-indole-1,7-dicarboxylate | 2.6 g | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OCC)C(=O)OC(C)(C)C)C1CC(SCC1)C(C)C | C24H32BrNO4S
